US04684724
In 2 ml of dimethyl sulfoxide is dissolved 0.38 g of (3S,4S)-b 3-[2-(2-chloroacetamidothiazol-4-yl)-2-(1-p-nitrobenzyloxycarbonyl-1-methylethoxyimino)acetamido]-4-cyano-2-azetidinone and, following addition of 0.1 ml of 30% aqueous hydrogen peroxide and 0.1 ml of 1N sodium hydroxide, the mixture is stirred at approx. 25° C. for 30 minutes. The reaction mixture is chromatographed on an XAD-II column (eluant: 30% ethanol) to give 0.12 g of (3S,4S)-4-carbamoyl-3-[2-(2-chloroacetamidothiazol-4-yl)-2-(1-p-nitrobenzyloxycarbonyl-1-methylethoxyimino)acetamido]-2-azetidinone.

reactant | 3-[2-(2-chloroacetamidothiazol-4-yl)-2-(1-p-nitrobenzyloxycarbonyl-1-methylethoxyimino)acetamido]-4-cyano-2-azetidinone | 0.38 g | ClCC(=O)NC=1SC=C(N1)C(C(=O)NC1C(NC1C#N)=O)=NOC(C)(C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C22H20ClN7O8S
reactant | hydrogen peroxide | 0.1 ml | OO | H2O2
reactant | sodium hydroxide | 1N, 0.1 ml | [OH-].[Na+]
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
product | (3S,4S)-4-carbamoyl-3-[2-(2-chloroacetamidothiazol-4-yl)-2-(1-p-nitrobenzyloxycarbonyl-1-methylethoxyimino)acetamido]-2-azetidinone | 0.12 g | C(N)(=O)[C@@H]1[C@@H](C(N1)=O)NC(C(=NOC(C)(C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C=1N=C(SC1)NC(CCl)=O)=O | C22H22ClN7O9S
